US07285558B2
5-[2-[(5-chloro-1H-indazol-3-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-N-cyclopropyl-1-methyl-1H-pyrrole-3-carboxamide
This compound was synthesized by the reaction of 5-[2-[(5-chloro-1H-indazol-3-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carboxylic acid and cyclopropylamine using diethyl cyanophosphonate as a coupling reagent Mass: 547.19 (M+H).

reactant | 5-[2-[(5-chloro-1H-indazol-3-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carboxylic acid | ClC=1C=C2C(=NNC2=CC1)CN1N=C2N(C(N(C(C2=C1C1=CC(=CN1C)C(=O)O)=O)C)=O)CC1CC1 | C24H22ClN7O4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | diethyl cyanophosphonate | C(#N)P(OCC)(OCC)=O | C5H10NO3P
product | 5-[2-[(5-chloro-1H-indazol-3-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-N-cyclopropyl-1-methyl-1H-pyrrole-3-carboxamide | ClC=1C=C2C(=NNC2=CC1)CN1N=C2N(C(N(C(C2=C1C1=CC(=CN1C)C(=O)NC1CC1)=O)C)=O)CC1CC1 | C27H27ClN8O3
